US06982274B2
Methyl 1H-5-Indazolecarboxylate
Under ice-cooling, to a solution of 910 mg of 1H-5-indazolecarboxylic acid in 60 ml tetrahydrofuran was added an excess amount of a solution of diazomethane in diethyl ether, and the mixture was stirred at the same temperature for 1 hour. After removing the solvent by distillation, the residue was added with 50 ml of ethyl acetate, sequentially washed with saturated aqueous sodium hydrogencarbonate solution and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 923 mg of the title compound as pale yellow crystals.

reactant | 1H-5-indazolecarboxylic acid | 910 mg | N1N=CC2=CC(=CC=C12)C(=O)O | C8H6N2O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl 1H-5-Indazolecarboxylate | 923 mg | N1N=CC2=CC(=CC=C12)C(=O)OC | C9H8N2O2
